US05750213
First, 6 g of 2,2-bis(6-benzyloxyhexyl)ethyl bromide, 2.19 g of sodium iodide, and 150 ml of 2-butanone were placed in a 300 ml flask. The mixture was stirred under reflux for 16 hours. The reaction mixture was poured into water, and an organic layer was extracted with ether. The ether layer was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled away. The residue was purified by silica gel column chromatography (eluent: toluene) to obtain 6 g of 2,2-bis(6-benzyloxyhexyl)ethyl iodide (Y: 91.2%). The compound thus obtained had a purity of 95.3% by HPLC.

reactant | 2,2-bis(6-benzyloxyhexyl)ethyl bromide | 6 g | C(C1=CC=CC=C1)OCCCCCCC(CBr)CCCCCCOCC1=CC=CC=C1 | C28H41BrO2
reactant | sodium iodide | 2.19 g | [I-].[Na+]
reactant | 2-butanone | 150 ml | CC(CC)=O | C4H8O
solvent | water | O | H2O
product | 2,2-bis(6-benzyloxyhexyl)ethyl iodide | 6 g, 91.2% | C(C1=CC=CC=C1)OCCCCCCC(CI)CCCCCCOCC1=CC=CC=C1 | C28H41IO2
